### PR TITLE
[Merged by Bors] - feat(Topology): strengthen `IsInducing.isQuotientMap_of_surjective` to `IsOpenQuotientMap`

### PR DESCRIPTION
**Pull request by alreadydone**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Maps/Basic.lean [hunk 1]
```diff
@@ -296,11 +296,13 @@ alias quotientMap_iff_closed := isQuotientMap_iff_isClosed
 @[deprecated (since := "2024-11-19")]
 alias isQuotientMap_iff_closed := isQuotientMap_iff_isClosed
 
-theorem IsInducing.isQuotientMap_of_surjective (ind : IsInducing f) (surj : Function.Surjective f) :
```
Comment (erdOne) [inline Mathlib/Topology/Maps/Basic.lean:299]: Can you remind me when this was added? Does this warrant a deprecation?

File: Mathlib/Topology/Maps/Basic.lean [hunk 2]
```diff
@@ -296,11 +296,13 @@ alias quotientMap_iff_closed := isQuotientMap_iff_isClosed
...
-  refine isQuotientMap_iff.mpr ⟨surj, fun s ↦ ⟨ind.continuous.isOpen_preimage s, fun h ↦ ?_⟩⟩
-  have ⟨U, hU, eq⟩ := ind.isOpen_iff.mp h
-  rwa [← surj.preimage_injective eq]
+theorem IsInducing.isOpenQuotientMap_of_surjective (ind : IsInducing f)
+    (surj : Function.Surjective f) : IsOpenQuotientMap f where
+  surjective := surj
+  continuous := ind.continuous
+  isOpenMap U U_open := by
+    obtain ⟨V, hV, rfl⟩ := ind.isOpen_iff.mp U_open
+    rwa [V.image_preimage_eq surj]
```
Comment (alreadydone) [inline Mathlib/Topology/Maps/Basic.lean:306]:
```suggestion
```

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by ocfnash** [comment]
bors merge
